US06498154B1
4-[4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]thiophene-2-carbonitrile (0.25 g, 0.74 mmol) was dissolved in DMF (10 mL), NaH (0.09 g, 2.22 mmol) was added and the mixture was stirred for 30 minutes prior to the addition of acetyl chloride (0.079 mL, 1.11 mmol). Upon disappearance of the starting material the reaction mixture was poured into brine (100 mL) and the product extracted with ether (150 mL), dried over sodium sulfate and concentrated. The residue was purified by a flash column chromatography (silica gel, 25% ethyl acetate/hexane) to yield 4-[1-acetyl-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]thiophene-2-carbonitrile (0.1 g, 36%) as an amorphous solid: 1H-NMR (DMSO-d6) δ 8.58 (s, 1H), 8.5 (s, 1H), 7.83-7.80 (m, 2H), 7.64 (d, 1H, J=8.74 Hz), 6.42 (q, 1H, J=10 Hz), 2.24 (s, 3H), 1.73 (s, 3H), 1.42 (s, 3H). EXAMPLE 35 (6(5-Cyanothien-3-yl)-4,4-dimethyl-2(tnfluoromethyl)-2H-3,1-benzoxazin-1(4H)-yl)methyl Pivalate 4-[4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]thiophene-2-carbonitrile (0.30 g, 0.89 mmol) was dissolved in DMF (10 mL), NaH (0.065 g, 2.7 mmol) was added and the was mixture stirred for 30 minutes prior to the addition of tert-butyl chloroacetate (0.19 mL, 1.3 mmol). Upon disappearance of the starting material the reaction mixture was poured into brine (100 mL) and the product extracted with ether (150 mL), dried over sodium sulfate and concentrated. Flash column chromatography (silica gel, 8% ethyl acetate/hexane) gave (6(5-cyanothien-3-yl)-4,4-dimethyl-2-(trifluoromethyl)-2H-3,1-benzoxazin-1 (4H)-yl)methyl pivalate (0.127 g, 32%) as an amorphous solid: 1H-NMR (CDCl3) δ 7.82 (s, 1H), 7.58 (s, 1H), 7.41 (dd, 1H, J=8.33, 1.98 Hz), 7.25 (d, 1H, J=1.98 Hz) 7.10 (d, 1H, J=8.33 Hz), 6.79 (d, 1H, J=8.33 Hz), 5.66 (d, 1H, J=11.9 Hz), 5.38 (d, 1H, J=11.9 Hz), 1.72 (s, 3H), 1.55 (s, 3H), 1.18 (s, 9H).

reactant | 4-[4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]thiophene-2-carbonitrile | 0.74 mmol, 0.25 g | CC1(OC(NC2=C1C=C(C=C2)C=2C=C(SC2)C#N)C(F)(F)F)C | C16H13F3N2OS
reactant | NaH | 2.22 mmol, 0.09 g | [H-].[Na+]
reactant | acetyl chloride | 1.11 mmol, 0.079 mL | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 4-[1-acetyl-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]thiophene-2-carbonitrile | 0.1 g, 36% | C(C)(=O)N1C(OC(C2=C1C=CC(=C2)C=2C=C(SC2)C#N)(C)C)C(F)(F)F | C18H15F3N2O2S
